US07851463B2
55.1 4-(1-Propyl-azetidin-3-yl)-phenylamine
1-(3-(4-Nitrophenyl)azetidin-1-yl)propan-1-one (3.16 g, 13.49 mmol) was dissolved in ethanol (200 ml) and SnCl2.2H2O (15.20 g, 67.45 mmol) was added. The resulting mixture was refluxed for 8 h and then the solvent was removed under vacuum. The raw material was dissolved in ethyl acetate and washed successively with 2N aqueous NaOH (×2) and water. The organic layer was dried (Na2SO4), filtered through a pad of celite and evaporated. The crude 1-[3-(4-amino-phenyl)-azetidin-1-yl]-propan-1-one was then dissolved in tetrahydrofuran (THF) (200 ml) and 1M LiAlH4 in tetrahydrofuran (19.5 ml, 19.5 mmol) was added dropwise at 0° C. After stirring at room temperature for 2 h, the reaction mixture was carefully quenched with THF/H2O 9:1 (20 ml) at 0° C., then filtered through a pad of celite and the solvents were removed under reduced pressure. The crude 4-(1-propyl-azetidin-3-yl)-phenylamine was used without any further purification for the next step.

reactant | 1-(3-(4-Nitrophenyl)azetidin-1-yl)propan-1-one | 13.49 mmol, 3.16 g | [N+](=O)([O-])C1=CC=C(C=C1)C1CN(C1)C(CC)=O | C12H14N2O3
reactant | SnCl2.2H2O | 67.45 mmol, 15.20 g | O.O.Cl[Sn]Cl
reactant | LiAlH4 | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | tetrahydrofuran | 19.5 mmol, 19.5 ml | O1CCCC1 | C4H8O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-(1-Propyl-azetidin-3-yl)-phenylamine | C(CC)N1CC(C1)C1=CC=C(C=C1)N | C12H18N2
